US08748613B2
2-(3-Fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride (225 mg, 0.82 mmol), DCC (339 mg, 1.64 mmol), and HOBT (252 mg, 1.64 mmol) were dissolved in dry THF (9 ml). (R)-quinuclidin-3-ol (314 mg, 2.47 mmol) was added and the reaction mixture was stirred at room temperature for 16 hours. THF was evaporated, the residue was taken up with EtOAc and washed with sat. NaHCO3, water and brine. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography (DCM/MeOH=9/1) to obtain (R)-quinuclidin-3-yl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate (166 mg, 58.3 yield).

reactant | 2-(3-Fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride | 0.82 mmol, 225 mg | Cl.FC=1C=C(C=CC1)C(C(=O)O)N1CCCCC1
reactant | DCC | 1.64 mmol, 339 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.64 mmol, 252 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 2.47 mmol, 314 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate | 166 mg | FC=1C=C(C=CC1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H27FN2O2
